US06380218B1
3,5-Di-tert-butyl-4-hydroxy-benzonitrile
A solution of 3,5-Di-tert-butyl-4-hydroxy-benzaldehyde oxime (3.0 grams, 8.4 mmole) in acetic anhydride (6 ml) was was refluxed for 2 hours. The mixture was cooled to 0° C. and saturated sodium hydrogencarbonate was added. The mixture was extracted with methylene chloride. The combined extracts were washed with saturated NaHCO3, dried over Na2SO4, filtered, and concentrated to give a solid. This was dissolved in diethyl ether and extracted with 1 N sodium hydroxide which was then acidified to pH 1 and extracted with ethyl acetate. The extract was dried and concentrated to a yellow solid which was recrystalized from ethyl acetate/hexane to give white crystals (1.05 g). MW 231; MS (m/e) 249 (M++NH4+).

reactant | 3,5-Di-tert-butyl-4-hydroxy-benzaldehyde oxime | 8.4 mmole, 3.0 grams | C(C)(C)(C)C=1C=C(C=NO)C=C(C1O)C(C)(C)C | C15H23NO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,5-Di-tert-butyl-4-hydroxy-benzonitrile | 1.05 g | C(C)(C)(C)C=1C=C(C#N)C=C(C1O)C(C)(C)C | C15H21NO
